US07737152B2
N2-(4-fluorophenyl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine, CJS 709
Using Method R, with 200 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine (all amounts scaled accordingly) and 4-fluoroaniline, 72 mg of title compound were obtained. Yield: 28%. 1H NMR (250 MHz, DMSO-d6) δ 3.62 (s, 9H), 6.83 (s, 2H), 7.06 (t, 2H, J=9.0 Hz), 7.51 (s, 1H), 7.57 (d, 2H, J=9.1 Hz), 9.05 (s, 1H), 9.14 (s, 1H). 13C NMR (62.5 MHz, DMSO-d6) δ 55.56, 60.12, 97.01, 114.94, 115.29, 120.38, 120.50, 121.62, 121.83, 132.29, 137.19, 137.22, 150.15, 152.84. m/z 371.2 [(M+H)+ calcd for C19H19FN4O3 370.1].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 200 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N2-(4-fluorophenyl)-N6-(3,4,5-trimethoxyphenyl)pyrazine-2,6-diamine | 72 mg, Yield: 28% | FC1=CC=C(C=C1)NC1=NC(=CN=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C19H19FN4O3
